US04978753
In the manner given in Example 2, 2-amino-7-chloro-5-(2,6-difluorophenyl)-3H-1,4-benzodiazepine, methyl propiolate and methanol were refluxed. The mixture was chromatographed to give 9-chloro-7-(2,6-difluorophenyl)pyrimido[1,2-a][1,4]benzodiazepin-3(5H)-one.

reactant | 2-amino-7-chloro-5-(2,6-difluorophenyl)-3H-1,4-benzodiazepine | NC1=NC2=C(C(=NC1)C1=C(C=CC=C1F)F)C=C(C=C2)Cl | C15H10ClF2N3
reactant | methyl propiolate | C(C#C)(=O)OC | C4H4O2
solvent | methanol | CO | CH4O
product | 9-chloro-7-(2,6-difluorophenyl)pyrimido[1,2-a][1,4]benzodiazepin-3(5H)-one | ClC=1C=CC2=C(C(=NCC=3N2C=CC(N3)=O)C3=C(C=CC=C3F)F)C1 | C18H10ClF2N3O
